US07897597B2
A mixture of 6-benzyloxyquinolin-4-ol (65.7 g) and propionic acid (660 mL) was heated at 110° C. with vigorous stirring. Nitric acid (19.2 mL of 16 M) was slowly added over a period of 30 minutes while maintaining the reaction temperature below 120° C. After the addition, the reaction was allowed to cool to ambient temperature. The resulting solid was isolated by filtration, washed sequentially with propionic acid, isopropanol, and diethyl ether. The material was dried in a vacuum dessicator for 2 days to provide 46.0 g of 6-benzyloxy-3-nitroquinolin-4-ol as a tan powder.

reactant | 6-benzyloxyquinolin-4-ol | 65.7 g | C(C1=CC=CC=C1)OC=1C=C2C(=CC=NC2=CC1)O | C16H13NO2
reactant | Nitric acid | 16 M, 19.2 mL | [N+](=O)(O)[O-] | HNO3
solvent | propionic acid | 660 mL | C(CC)(=O)O | C3H6O2
product | 6-benzyloxy-3-nitroquinolin-4-ol | 46.0 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])O | C16H12N2O4
